US07915263B2
Synthesis of 1-tert-butyl-1H-pyrazol-5-amine
To 600 ml of ethanol were successively added 59.94 g of tert-butylhydrazine hydrochloride, 79.3 g of sodium acetate and 50 ml of 2-chloroacrylonitrile at room temperature, followed by stirring the reaction mixture at 80° C. for 12 hours. After removing the solvent in vacuo, water was added to the residue. The mixture was neutralized with sodium hydrogen carbonate, and extracted with ethyl acetate. The obtained ethyl acetate solution was washed with brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The obtained residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=2/1-1/2) to give the title compound as a pale yellow oil.

reactant | tert-butylhydrazine hydrochloride | 59.94 g | Cl.C(C)(C)(C)NN
reactant | sodium acetate | 79.3 g | C(C)(=O)[O-].[Na+]
reactant | 2-chloroacrylonitrile | 50 ml | ClC(C#N)=C | C3H2ClN
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 1-tert-butyl-1H-pyrazol-5-amine | C(C)(C)(C)N1N=CC=C1N | C7H13N3
